US05210290
(a) 3-[2-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl]acetylamino]-3-methoxycarbonylpropionic Acid Methyl Ester
Under the conditions of Example 2(a), 3.012 g (10 mmol) of 2-[N-(4-fluoro-3-trifluoromethylphenyl)sulfamoyl]acetic acid, 1.836 g (10 mmol) of L-aspartic acid dimethyl ester hydrochloride, 1.531 g (10 mmol) of hydroxybenzotriazole, hydrate, as well as 1.012 g (10 mmol) of triethylamine and 2.063 g (10 mmol) of dicyclohexylcarbodiimide are reacted and worked up analogously. The crude product is chromatographed on silica gel. The title compound is eluted with ethyl acetate.

reactant | 2-[N-(4-fluoro-3-trifluoromethylphenyl)sulfamoyl]acetic acid | 10 mmol, 3.012 g | FC1=C(C=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
reactant | L-aspartic acid dimethyl ester hydrochloride | 10 mmol, 1.836 g | Cl.COC([C@@H](N)CC(=O)OC)=O
reactant | hydroxybenzotriazole, hydrate | 10 mmol, 1.531 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 10 mmol, 1.012 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 10 mmol, 2.063 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 3-[2-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl]acetylamino]-3-methoxycarbonylpropionic Acid Methyl Ester | COC(CC(C(=O)OC)NC(CS(NC1=CC(=C(C=C1)F)C(F)(F)F)(=O)=O)=O)=O | C15H16F4N2O7S
